US08106070B2
Sodium bicarbonate (7.05 g, 83.8 mmol) was added to an ambient temperature solution of 2-(acetylamino)-3-(4-bromophenyl)propanoic acid (3 g, 10.5 mmol), 1-amino-4,4-dimethylhexan-2-ol (3.04 g, 21.0 mmol), 1-[3-(dimethylamino) propyl]-3-ethylcarbodiimide hydrochloride (4.02 g, 21.0 mmol) and 1-hydroxybenzotriazole (2.83 g, 21.0 mmol) in methylene chloride (105 mL). After stirring at ambient temperature overnight, the reaction mixture was quenched with water and extracted with methylene chloride and ethyl acetate. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-100% acetone/methylene chloride afforded 2-(acetylamino)-3-(4-bromophenyl)-N-(2-hydroxy-4,4-dimethylhexyl)propanamide.

reactant | Sodium bicarbonate | 83.8 mmol, 7.05 g | C([O-])(O)=O.[Na+]
reactant | 2-(acetylamino)-3-(4-bromophenyl)propanoic acid | 10.5 mmol, 3 g | C(C)(=O)NC(C(=O)O)CC1=CC=C(C=C1)Br | C11H12BrNO3
reactant | 1-amino-4,4-dimethylhexan-2-ol | 21.0 mmol, 3.04 g | NCC(CC(CC)(C)C)O | C8H19NO
reactant | 1-[3-(dimethylamino) propyl]-3-ethylcarbodiimide hydrochloride | 21.0 mmol, 4.02 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 21.0 mmol, 2.83 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | methylene chloride | 105 mL | C(Cl)Cl | CH2Cl2
product | 2-(acetylamino)-3-(4-bromophenyl)-N-(2-hydroxy-4,4-dimethylhexyl)propanamide | C(C)(=O)NC(C(=O)NCC(CC(CC)(C)C)O)CC1=CC=C(C=C1)Br | C19H29BrN2O3
